US03992535
4-Hydroxy-2-methyl-N-(1,3,4-thiadiazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide was prepared analogous to Example 1 from 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide and 2-amino-1,3,4-thiadiazole. Yield: 41% of theory; m.p.217°-219° C (decomp.; from ethylene chloride/ethyl acetate).

reactant | 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide | COC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C15H13NO5S
reactant | 2-amino-1,3,4-thiadiazole | NC=1SC=NN1 | C2H3N3S
solvent | ethylene chloride ethyl acetate | C(CCl)Cl.C(C)(=O)OCC
product | 4-Hydroxy-2-methyl-N-(1,3,4-thiadiazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | Yield: 41% | OC1=C(N(S(C2=C1C=CC1=CC=CC=C12)(=O)=O)C)C(=O)NC=1SC=NN1 | C16H12N4O4S2
